data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
4332,4953,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[CH-:15][O+:16]=[CH:17][c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1>>[CH2:1]1[C@H:2]2[C@@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[CH:17]([c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1)[O:16][CH:15]2[C:13]([NH:12][CH3:11])=[O:14],water,298.15,8.183461089071997,-50.07819757518886
3491,3975,[CH3:10][C:11](=[O:12])[CH:13]=[N+:14]([CH3:15])[CH-:16][C:17]#[N:18].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][CH:13]([C:11]([CH3:10])=[O:12])[N:14]([CH3:15])[CH:16]1[C:17]#[N:18],water,298.15,21.14090795051884,-18.53954704725488
2414,2682,[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[NH:8][CH3:9])[C:10]#[C:11][C:12]([C:13]([CH3:14])=[O:15])([C:16]([F:17])([F:18])[F:19])[CH2:20][CH2:21][CH2:22][CH2:23]1.[CH3:24][O:25][C:26](=[O:27])[CH-:28][N+:29]([CH3:30])=[CH:31][C:32]#[N:33]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[NH:8][CH3:9])[C:10]2=[C:11]([C:12]([C:13]([CH3:14])=[O:15])([C:16]([F:17])([F:18])[F:19])[CH2:20][CH2:21][CH2:22][CH2:23]1)[CH:28]([C:26]([O:25][CH3:24])=[O:27])[N:29]([CH3:30])[CH:31]2[C:32]#[N:33],water,298.15,10.832803677734017,-39.249377776571386
2143,2377,[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([c:6]2[cH:7][cH:8][cH:9][cH:10][cH:11]2)[CH:12]2[CH:13]=[CH:14][CH:15]1[O:16]2.[N:17]#[C:18][N-:19][NH+:20]=[C:21]([c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1)[c:28]1[cH:29][cH:30][cH:31][cH:32][cH:33]1>>[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([c:6]2[cH:7][cH:8][cH:9][cH:10][cH:11]2)[CH:12]2[CH:13]3[CH:14]([CH:15]1[O:16]2)[N:19]([C:18]#[N:17])[NH:20][C:21]3([c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1)[c:28]1[cH:29][cH:30][cH:31][cH:32][cH:33]1,water,298.15,26.352073468335096,-21.03175160279018
547,597,[CH3:11][NH:12][C:13](=[O:14])[C-:15]([C:16]#[N:17])[NH+:18]=[C:19]([CH3:20])[C:21]#[N:22].[CH3:1][C:2](=[O:3])[C:4]1=[CH:5][CH:6]2[CH2:7][CH2:8][CH:9]1[CH2:10]2>>[CH3:1][C:2](=[O:3])[C:4]12[CH:5]([CH:6]3[CH2:7][CH2:8][CH:9]1[CH2:10]3)[C:19]([CH3:20])([C:21]#[N:22])[NH:18][C:15]2([C:13]([NH:12][CH3:11])=[O:14])[C:16]#[N:17],water,298.15,17.105290910930133,-21.25642189468552
3791,4341,[CH3:9][NH:10][C:11](=[O:12])[C-:13]([CH3:14])[N+:15]#[C:16][C:17](=[O:18])[O:19][CH3:20].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]\[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[C:13]([C:11]([NH:10][CH3:9])=[O:12])([CH3:14])[N:15]=[C:16]1[C:17](=[O:18])[O:19][CH3:20],water,298.15,15.356641530615034,-45.06930883248528
372,403,[CH3:10][O:11][C:12](=[O:13])[c-:14]1[o+:15][n:16][o:17][c:18]1=[O:19].[F:1][C:2]1=[C:3]([Cl:4])[CH:5]2[CH:6]=[CH:7][CH:8]1[O:9]2>>[F:1][C:2]1=[C:3]([Cl:4])[CH:5]2[CH:6]3[CH:7]([CH:8]1[O:9]2)[N:16]1[O:15][C:14]3([C:12]([O:11][CH3:10])=[O:13])[C:18](=[O:19])[O:17]1,water,298.15,18.653725482467845,-33.259241785520665
1867,2070,[CH3:16][NH:17][C:18](=[O:19])[C:20](=[O+:21][N-:22][C:23]#[N:24])[c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1.[F:1][C:2]1([c:3]2[cH:4][cH:5][cH:6][cH:7][cH:8]2)[C:9]#[C:10][CH2:11][CH2:12][CH2:13][CH2:14][CH2:15]1>>[F:1][C:2]1([c:3]2[cH:4][cH:5][cH:6][cH:7][cH:8]2)[C:9]2=[C:10]([CH2:11][CH2:12][CH2:13][CH2:14][CH2:15]1)[N:22]([C:23]#[N:24])[O:21][C:20]2([C:18]([NH:17][CH3:16])=[O:19])[c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1,water,298.15,8.129630476474219,-53.721135203018505
5071,5759,[CH3:10][O:11][C:12](=[O:13])[C:14]([c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1)=[N+:21]([CH3:22])[C-:23]([CH3:24])[C:25](=[O:26])[O:27][CH3:28].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:14]([C:12]([O:11][CH3:10])=[O:13])([c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)[N:21]([CH3:22])[C:23]1([CH3:24])[C:25](=[O:26])[O:27][CH3:28],water,298.15,32.164695324109026,-13.161848783926946
3898,4459,[CH3:10][O:11][C:12](=[O:13])[C:14](=[NH+:15][O-:16])[C:17](=[O:18])[O:19][CH3:20].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][O:16][NH:15][C:14]1([C:12]([O:11][CH3:10])=[O:13])[C:17](=[O:18])[O:19][CH3:20],water,298.15,25.26590579863441,2.071312571953794
1449,1591,[CH3:13][O:14][C:15](=[O:16])[C:17](=[NH+:18][CH-:19][C:20]([CH3:21])=[O:22])[C:23](=[O:24])[O:25][CH3:26].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([CH3:7])[CH:8]2[CH2:9][CH2:10][CH:11]1[CH2:12]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([CH3:7])([CH:8]3[CH2:9][CH2:10][CH:11]1[CH2:12]3)[C:17]([C:15]([O:14][CH3:13])=[O:16])([C:23](=[O:24])[O:25][CH3:26])[NH:18][CH:19]2[C:20]([CH3:21])=[O:22],water,298.15,32.981483492041505,-2.699732640438855
